US08957215B2
b) tert-butyl (5-{6-[(tert-butoxycarbonyl)amino]-1,3-benzothiazol-2-yl}pyridin-2-yl)methylcarbamate
tert-Butyl (2-bromo-1,3-benzothiazol-6-yl)carbamate (100 mg, 0.30 mmol) and tert-butyl [5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)pyridin-2-yl]methylcarbamate (0.146 g, 0.46 mmol) were subjected to the procedure used for the preparation of tert-butyl [5-(6-carbamoyl-1,3-benzothiazol-2-yl)pyridin-2-yl]methylcarbamate. This gave the product (110 mg) as a white solid. MS m/z (M−H) 455.

reactant | tert-Butyl (2-bromo-1,3-benzothiazol-6-yl)carbamate | 0.30 mmol, 100 mg | BrC=1SC2=C(N1)C=CC(=C2)NC(OC(C)(C)C)=O | C12H13BrN2O2S
reactant | tert-butyl [5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)pyridin-2-yl]methylcarbamate | 0.46 mmol, 0.146 g | CC1(COB(OC1)C=1C=CC(=NC1)CNC(OC(C)(C)C)=O)C | C16H25BN2O4
reactant | tert-butyl [5-(6-carbamoyl-1,3-benzothiazol-2-yl)pyridin-2-yl]methylcarbamate | C(N)(=O)C1=CC2=C(N=C(S2)C=2C=CC(=NC2)CNC(OC(C)(C)C)=O)C=C1 | C19H20N4O3S
product | tert-butyl (5-{6-[(tert-butoxycarbonyl)amino]-1,3-benzothiazol-2-yl}pyridin-2-yl)methylcarbamate | 110 mg | C(C)(C)(C)OC(=O)NC1=CC2=C(N=C(S2)C=2C=CC(=NC2)CNC(OC(C)(C)C)=O)C=C1 | C23H28N4O4S
